US08039495B2
A solution of 3-(4-bromo-2-fluoro-phenoxymethyl)-benzoic acid methyl ester (5.5 g, 16.22 mmol) in dioxane was treated with a solution of lithium hydroxide (1.86 g, 81.1 mmol) in water at room temperature overnight, followed by acidification with concentrated HCl and diluted with water. The precipitate was collected by filtration, washed with water, and dried to give 3-(4-bromo-2-fluoro-phenoxymethyl)-benzoic acid, 5.2 g (99%). LC-MS (ES) calculated for C14H10BrFO3, 323; found m/z 324 [M+H]+.

reactant | 3-(4-bromo-2-fluoro-phenoxymethyl)-benzoic acid methyl ester | 16.22 mmol, 5.5 g | COC(C1=CC(=CC=C1)COC1=C(C=C(C=C1)Br)F)=O | C15H12BrFO3
reactant | lithium hydroxide | 81.1 mmol, 1.86 g | [OH-].[Li+]
reactant | HCl | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | 3-(4-bromo-2-fluoro-phenoxymethyl)-benzoic acid | BrC1=CC(=C(OCC=2C=C(C(=O)O)C=CC2)C=C1)F | C14H10BrFO3
